US09303020B2
Preparation of 2-(4-fluorophenyl)-3-(1H-imidazol-2-yl)-6-nitrobenzofuran-5-ol.
To a solution of 2-(2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-yl)-1H-imidazole (800 mg, 2.098 mmol) in dichloromethane (DCM) (80 mL) at −78° C. under an nitrogen atmosphere was added a 1.0 M solution of trichloroborane in DCM (5.24 mL, 5.24 mmol). The reaction mixture was allowed to warm to room temperature and stirring continued at rt overnight. The reaction mixture was then concentrated completely to remove the volatiles. The residue was diluted with ice-cold water, and the solid filtered to obtain the title compound as a yellow solid. Yield: 650 mg (91%). 1H NMR (400 MHz, DMSO-d6) δ ppm: 14.59-15.34 (m, 1H) 11.07 (br s, 1H) 8.35-8.52 (m, 1H) 8.07 (d, J=1.76 Hz, 1H) 7.87-7.99 (m, 1H) 7.59-7.77 (m, 1H) 7.30-7.55 (m, 4H). LCMS: (ES+) m/z=340.15 (M+H)+; Column—ACQUITY UPLC BEH C8 (50×2.1 mm; 1.7 μm); M phase A: 5 mM Ammonium Acetate:MeCN (95:5); M phase B: 5 mM Ammonium Acetate:MeCN (5:95)

reactant | 2-(2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-yl)-1H-imidazole | 2.098 mmol, 800 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C=1NC=CN1)C=C(C(=C2)[N+](=O)[O-])OC(C)C | C20H16FN3O4
reactant | trichloroborane | ClB(Cl)Cl | BCl3
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | DCM | 5.24 mmol, 5.24 mL | ClCCl | CH2Cl2
product | 2-(4-fluorophenyl)-3-(1H-imidazol-2-yl)-6-nitrobenzofuran-5-ol | FC1=CC=C(C=C1)C=1OC2=C(C1C=1NC=CN1)C=C(C(=C2)[N+](=O)[O-])O | C17H10FN3O4
